### PR TITLE
Add Oppermann's Conjecture

### PR DESCRIPTION
**Pull request by Reklle**
I'm not sure, but maybe it's worth to add a proof that Oppermann's conjecture implies Legendre's conjecture.

### CODE REVIEW

File: FormalConjectures/Wikipedia/Oppermann.lean [hunk 1]
```diff
@@ -0,0 +1,36 @@
...
+2. There exists a prime between `x²` and `x(x+1)`
+
+Moreover, Oppermann's conjecture implies Legendre's conjecture.
+
+*Reference:* [Wikipedia](https://en.wikipedia.org/wiki/Oppermann%27s_conjecture)
+-/
+
+@[category research open, AMS 11]
+theorem oppermann_conjecture :
+  ∀ x : ℕ, x ≥ 2 →
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/Oppermann.lean]:
```suggestion
theorem oppermann_conjecture (x : ℕ) (hx : x ≥ 2) :
```

File: FormalConjectures/Wikipedia/Oppermann.lean [hunk 2]
```diff
@@ -0,0 +1,36 @@
...
+import FormalConjectures.Util.ProblemImports
+
+/-!
+# Oppermann's Conjecture
+
+For every integer `x ≥ 2`,
+1. There exists a prime between `x(x-1)` and `x²`
+2. There exists a prime between `x²` and `x(x+1)`
+
+Moreover, Oppermann's conjecture implies Legendre's conjecture.
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/Oppermann.lean]: Typically, we'd put the theorem statement as a docstring above the (main) statement.

File: FormalConjectures/Wikipedia/Oppermann.lean [hunk 3]
```diff
@@ -0,0 +1,36 @@
...
+
+*Reference:* [Wikipedia](https://en.wikipedia.org/wiki/Oppermann%27s_conjecture)
+-/
+
+@[category research open, AMS 11]
+theorem oppermann_conjecture :
+  ∀ x : ℕ, x ≥ 2 →
+    (∃ p ∈ Finset.Ioo (x * (x - 1)) (x^2), Nat.Prime p) ∧
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/Oppermann.lean]: Since this statement is an "AND", I think it's worthwhile also formalising two additional statement, one for the LHS and one for the RHS. I'd suggest calling these `oppermann_conjecture.parts.i` and `oppermann_conjecture.parts.ii`.

**Comment by Reklle** [comment]
@Paul-Lez, to be honest, I don't know how to formulate a statement about the implication well. And I haven't worked with proofs yet. Could you help me?

**Comment by Paul-Lez** [comment]
> @Paul-Lez, to be honest, I don't know how to formulate a statement about the implication well. And I haven't worked with proofs yet. Could you help me?

Sure! I'll add both later today!

File: FormalConjectures/Wikipedia/Oppermann.lean [hunk 4]
```diff
@@ -0,0 +1,68 @@
...
+theorem oppermann_conjecture (x : ℕ) (hx : x ≥ 2) :
+  (∃ p ∈ Finset.Ioo (x * (x - 1)) (x^2), Prime p) ∧
+    ∃ p ∈ Finset.Ioo (x^2) (x * (x + 1)), Prime p := by
+  sorry
+
+/-- Oppermann's conjecture implies Brocard's conjecture. -/
+@[category high_school, AMS 11]
+theorem oppermann_implies_brocard (n : ℕ)
+    (P : type_of% oppermann_conjecture) :
+    letI prev := n.nth Prime
```
Comment (alreadydone) [inline FormalConjectures/Wikipedia/Oppermann.lean:57]:
```suggestion
    letI prev := n.nth Nat.Prime
```
(and elsewhere)

File: FormalConjectures/Wikipedia/Oppermann.lean [hunk 5]
```diff
@@ -0,0 +1,68 @@
...
+
+/--
+**Oppermann's Conjecture**:
+For every integer `x ≥ 2`, the following hold:
+- There exists a prime between `x * (x-1)` and `x ^ 2`.
+- There exists a prime between `x ^ 2` and `x * (x+1)`.
+-/
+@[category research open, AMS 11]
+theorem oppermann_conjecture (x : ℕ) (hx : x ≥ 2) :
+  (∃ p ∈ Finset.Ioo (x * (x - 1)) (x^2), Prime p) ∧
```
Comment (alreadydone) [inline FormalConjectures/Wikipedia/Oppermann.lean:49]: indent by 4 spaces (and elsewhere)

File: FormalConjectures/Wikipedia/Oppermann.lean [hunk 6]
```diff
@@ -0,0 +1,68 @@
...
+@[category research open, AMS 11]
+theorem oppermann_conjecture.parts.i (x : ℕ) (hx : x ≥ 2) :
+  ∃ p ∈ Finset.Ioo (x * (x - 1)) (x^2), Prime p := by
+  sorry
+
+/--
+For every integer `x ≥ 2` there exists a prime between `x²` and `x(x+1)`.
+-/
+@[category research open, AMS 11]
+theorem oppermann_conjecture.parts.ii (x : ℕ) (hx : x ≥ 2) :
```
Comment (alreadydone) [inline FormalConjectures/Wikipedia/Oppermann.lean:37]: Mathlib likes ≤ more than ≥
```suggestion
theorem oppermann_conjecture.parts.ii (x : ℕ) (hx : 2 ≤ x) :
```
(and elsewhere)

File: FormalConjectures/Wikipedia/Oppermann.lean [hunk 7]
```diff
@@ -0,0 +1,68 @@
...
+    letI next := (n+1).nth Prime
+    letI primesInBetween := (Finset.Ioo (prev ^ 2) (next ^ 2)).filter Nat.Prime
+    4 ≤ primesInBetween.card := by
+  sorry
+
+/-- Oppermann's conjecture implies Legendre's conjecture. -/
+@[category high_school, AMS 11]
+theorem oppermann_implies_legendre (n : ℕ) (hn : 1 ≤ n)
+    (P : type_of% oppermann_conjecture) :
+    ∃ p ∈ Set.Ioo (n ^ 2) ((n + 1) ^ 2), Prime p := by
```
Comment (mo271) [inline FormalConjectures/Wikipedia/Oppermann.lean]:
```suggestion
    ∃ p ∈ Finset.Ioo (n ^ 2) ((n + 1) ^ 2), Prime p := by
```

Just for consistency with the other ones above

**Review by mo271 — APPROVED** [review]

**Review by alreadydone — COMMENTED** [review]
Some review I forgot to submit ...

File: FormalConjectures/Wikipedia/Oppermann.lean (hunk 4 above)
Comment (Reklle) [reply FormalConjectures/Wikipedia/Oppermann.lean:57]: It compiles, and I used `n.nth Prime` in the previous PR. Is `n.nth Nat.Prime` better?

Comment (alreadydone) [reply FormalConjectures/Wikipedia/Oppermann.lean:57]: They are equivalent by [Nat.prime_iff](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Nat/Prime/Defs.html#Nat.prime_iff)[Nat.prime_iff](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Nat/Prime/Defs.html#Nat.prime_iff), but I think `Nat.Prime` is the canonical spelling when it comes to number theory. ~~It's "computable" (can be evaluated by Lean kernel),~~ It has decidability instances associated to it ([Nat.decidablePrime](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Nat/Prime/Defs.html#Nat.decidablePrime)[Nat.decidablePrime](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Nat/Prime/Defs.html#Nat.decidablePrime)) but `_root_.Prime` doesn't, for example.

Comment (Reklle) [reply FormalConjectures/Wikipedia/Oppermann.lean:57]: Interesting! Thank you!
